US08685970B2
Step 1) Preparation of (R)-2,2-dimethyl-4-((3-nitrophenoxy)methyl)-1,3-dioxolane
3-Nitrophenol (2.0 g, 14.37 mmol) was taken up in 20 mL of anhydrous DMF along with anhydrous potassium carbonate (4.96 g, 35.93 mmol) and (R)-4-(chloromethyl)-2,2-dimethyl-1,3-dioxolane (2.55 mL, 18.68 mmol). The resulting reaction mixture was heated in the microwave reactor, with stirring, at 160° C. for 4 h. The crude reaction mixture was rinsed with water, filtered and extracted with dichloromethane (3×15 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. The resulting residue was purified by chromatography using ethyl acetate: pentane to obtain the desired product as an amber-colored oil (52%).

reactant | 3-Nitrophenol | 14.37 mmol, 2.0 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium carbonate | 35.93 mmol, 4.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-4-(chloromethyl)-2,2-dimethyl-1,3-dioxolane | 18.68 mmol, 2.55 mL | ClC[C@@H]1OC(OC1)(C)C | C6H11ClO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (R)-2,2-dimethyl-4-((3-nitrophenoxy)methyl)-1,3-dioxolane | 52% | CC1(OC[C@H](O1)COC1=CC(=CC=C1)[N+](=O)[O-])C | C12H15NO5
